US06271378B1
A solution of pyridine (320 g, 4.05 mol) in acetonitrile (1600 mL) was cooled to −25° C. and treated with ethyl chloroformate (440 g, 4.05 mol) over about 0.75 hours, keeping the temperature below −15° C. A very thick slurry of the intermediate N-ethoxycarbonylpyridinium chloride salt was formed. This suspension was stirred at −30 to −15° C. for 2 hours. Triethyl phosphite (671.2 g, 4.04 mol) was then added over about 1 hour while keeping the temperature in the same range. A yellow solution results. This was allowed to warm to ambient temperature overnight and the solvent was distilled off under vacuum to a maximum temperature of 60° C. The residual oil was dissolved in dichloromethane (2000 mL) and stirred with a mixture of water (500 mL) and concentrated hydrochloric acid (20 mL) at ambient temperature for 3 hours. The phases were separated and the dichloromethane solution washed with water (500 mL) and then with a solution of 1 g potash in 500 mL water. The pH of this wash is checked after IS minutes agitation and if in the 6-8 range, the dichloromethane solution is water-washed again and the solvent is removed under vacuum to a temperature of 70° C. (oil-pump vacuum was used towards the end of the distillation) to leave 1144 g (98%) of diethyl N-ethoxycarbonyl-1,4-dihydropyridine-4-phosphonate (DHP-Phosphonate). This material was a 91:9 mixture of DHP-Phosphonate and its 1,2-isomer.

reactant | pyridine | 4.05 mol, 320 g | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | 4.05 mol, 440 g | ClC(=O)OCC | C3H5ClO2
solvent | acetonitrile | 1600 mL | C(C)#N | C2H3N
product | N-ethoxycarbonylpyridinium chloride salt | [Cl-].C(C)OC(=O)[N+]1=CC=CC=C1 | InChI=1S/C8H10NO2.ClH/c1-2-11-8(10)9-6-4-3-5-7-9;/h3-7H,2H2,1H3;1H/q+1;/p-1
